********************************************************************************
* Disclaimer
*
* This model is designed as an aid for customers of Texas Instruments.
* TI and its licensors and suppliers make no warranties, either expressed
* or implied, with respect to this  model, including the warranties of 
* merchantability or fitness for a particular purpose. The model is 
* provided solely on an "as is" basis. The entire risk as to its quality 
* and performance is with the customer.         
********************************************************************************
* Copyright
* 
* (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.
********************************************************************************
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA695
* Date: 05/21/2009
* Model Type: PSPICE
* Simulator: PSpice 16.0.0.p001
* Datasheet: SBOS293G
********************************************************************************
* Release Notes:
* 1.0 Original Version 
* 2.0 Improving some of the DC performance
* 2.1 Improving Slew Rate accuracy
*     This model provides good typical values for the following parameters:
*     small signal closed loop bandwidth for high gain(i.e G=8), input noise, 
*     slew rate (in particular non-inverting configuration), current consumption,
*     input voltage range, input voltage offset and output voltage range. 
*
* Modified model for use in Agilent ADS 
*
********************************************************************************

.SUBCKT OPA695 INP INN  VCC VEE Out
X1 INP INN DisA Out VCC VEE OPA695_model
VDIS      DisA  0 5V
.ENDS

.SUBCKT OPA695_model INP INN Dis OUT VCC VEE 

.PARAM x1 = {1/8}
.PARAM x2 = {x1*2}
.PARAM x3 = {x1*3}
.PARAM x5 = {x1*5}
.PARAM x12 = {x1*12}
.PARAM x16 = {x1*16}
.PARAM x60 = {x1*60}

C_C1         Vmid Dis  2p  
*****
*X_S1    $N_0001 0 $N_0002 $N_0003 OPA695_model_S1 
R_S1_IN       $N_0001 0 1e9
R_S1_OUT      $N_0002 $N_0003 0.001
*****
R_R11         Vmid Dis  100MEG  
R_R8         Vmid $N_0004  10k  
Q_Q1         $N_0006 $N_0005 $N_0007 PNP8 {x1}
Q_Q4         $N_0008 $N_0008 $N_0005 NPN8 {x1}
Q_Q5         $N_0009 $N_0005 $N_0010 PNP8 {x2}
Q_Q12         $N_0011 $N_0005 $N_0012 PNP8 {x2}
Q_Q9         $N_0013 $N_0005 $N_0014 PNP8 {x2}
Q_Q7         $N_0015 $N_0015 $N_0016 NPN8 {x2}
Q_Q6         $N_0015 $N_0017 $N_0009 PNP8 {x16}
Q_Q14         $N_0011 $N_0017 $N_0018 NPN8 {x1}
Q_Q16         $N_0017 $N_0018 $N_0019 NPN8 {x1}
Q_Q15         $N_0018 $N_0018 $N_0020 NPN8 {x1}
Q_Q10         $N_0011 $N_0011 $N_0021 NPN8 {x16}
Q_Q8         $N_0013 $N_0015 $N_0022 NPN8 {x2}
D_D3         $N_0023 $N_0021 DX 1
D_D1         $N_0021 $N_0024 DX 1
D_D2         $N_0024 $N_0025 DX 1
Q_Q18         $N_0026 $N_0026 $N_0021 PNP8 {x16}
Q_Q17         $N_0026 $N_0015 $N_0027 NPN8 {x2}
R_R24         VEE $N_0028  250  
X_F1    $N_0002 $N_0029 $N_0006 VEE OPA695_model_F1 
Q_Q2         VEE $N_0006 $N_0005 PNP8 {x1}
R_R18         VEE $N_0015  50k  
R_R20         VEE $N_0022  500  
R_R19         VEE $N_0016  500  
R_R21         VEE $N_0019  2k  
R_R22         VEE $N_0020  2k  
R_R23         VEE $N_0027  500  
D_D5         $N_0028 VEE DX 1
Q_Q20         $N_0030 $N_0030 $N_0028 NPN8 {x3}
Q_Q19         $N_0030 $N_0026 $N_0025 PNP8 {x16}
Q_Q25         $N_0031 $N_0030 $N_0032 NPN8 {x12}
Q_Q24         $N_0034 $N_0033 $N_0035 PNP8 {x12}
R_R10         VCC VEE  123.609k  
E_E1         $N_0004 VEE VCC VEE 0.5
E_ABM21 $N_0001 0 VALUE={(V(Dis)/(V(VCC)+1e-6) )*5.0}
R_R9         Dis VCC  41k  
R_R12         $N_0008 VCC  8k  
R_R14         $N_0010 VCC  500  
R_R15         $N_0014 VCC  500  
R_R16         $N_0012 VCC  500  
R_R17         $N_0006 VCC  72k  
R_R13         $N_0007 VCC  1987  
Q_Q21         $N_0036 $N_0030 $N_0037 NPN8 {x5}
R_R7         $N_0029 Vmid  10k  
R_R25         VEE $N_0037  150  
D_D7         VCC $N_0038 DX 1
R_R26         $N_0038 VCC  250  
Q_Q22         $N_0033 $N_0033 $N_0038 PNP8 {x3}
R_R27         $N_0039 VCC  150  
Q_Q23         $N_0036 $N_0033 $N_0039 PNP8 {x5}
D_D8         $N_0039 VCC DX 1
Q_Q13         $N_0017 $N_0006 $N_0013 PNP8 {x1}
Q_Q30         $N_0041 $N_0040 $N_0036 NPN8 {x1}
Q_Q31         $N_0042 $N_0040 $N_0036 PNP8 {x1}
V_V1         $N_0003 Vmid 2.04V
L_L1         INP $N_0021  1.3nH  
Q_Q11         $N_0033 $N_0011 $N_0025 NPN8 {x16}
D_D4         $N_0025 $N_0023 DX 1
L_L3         $N_0040 OUT  1.3nH  
L_L2         $N_0025 $N_0043  1.3nH  
C_C2         $N_0036 VCC  0.2p  
R_R31         $N_0043 INN  65  
Q_Q32         $N_0044 $N_0044 $N_0041 PNP8 {x60}
Q_Q33         $N_0040 $N_0044 $N_0041 PNP8 {x60}
Q_Q28         $N_0045 $N_0045 $N_0042 NPN8 {x60}
Q_Q29         $N_0040 $N_0045 $N_0042 NPN8 {x60}
Q_Q35         $N_0045 $N_0031 $N_0040 PNP8 {x60}
Q_Q34         $N_0044 $N_0034 $N_0040 NPN8 {x60}
Q_Q27         $N_0042 $N_0036 $N_0034 PNP8 {x60}
Q_Q26         $N_0041 $N_0036 $N_0031 NPN8 {x60}
R_R28         $N_0035 VCC  62.5  
D_D6         $N_0037 VEE DX 1
R_R29         VEE $N_0032  62.5  
V_V3         VEE $N_0042 0.2V
V_V2         $N_0041 VCC 0.2V

.MODEL NPN8 NPN
+ IS = 7.604E-18 BF = 1.570E+02 NF = 1.000E+00 VAF= 7.871E+01
+ IKF= 3.975E-02 ISE= 3.219E-14 NE = 2.000E+00 BR = 7.614E-01
+ NR = 1.000E+00 VAR= 1.452E+00 IKR= 8.172E-02 ISC= 7.618E-21
+ NC = 1.847E+00 RB = 1.060E+02 IRB= 0.000E+00 RBM= 2.400E+00
+ RE = 2.520E+00 RC = 1.270E+02 CJE= 1.120E-13 VJE= 7.591E-01
+ MJE= 5.406E-01 TF = 1.213E-11 XTF= 2.049E+00 VTF= 1.813E+00
+ ITF= 4.293E-02 PTF= 0.000E+00 CJC= 8.208E-15 VJC= 6.666E-01
+ MJC= 4.509E-01 XCJC=8.450E-02 TR = 4.000E-11 CJS= 1.160E-13
+ VJS= 5.286E-01 MJS= 4.389E-01 XTB= 1.022E+00 EG = 1.120E+00
+ XTI= 1.780E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.273E-01

.MODEL PNP8 PNP
+ IS = 7.999E-18 BF = 1.418E+02 NF = 1.000E+00 VAF= 4.158E+01
+ IKF= 1.085E-01 ISE= 2.233E-15 NE = 1.505E+00 BR = 3.252E+01
+ NR = 1.050E+00 VAR= 1.093E+00 IKR= 5.000E-05 ISC= 6.621E-16
+ NC = 1.150E+00 RB = 6.246E+01 IRB= 0.000E+00 RBM= 2.240E+00
+ RE = 2.537E+00 RC = 1.260E+02 CJE= 9.502E-14 VJE= 7.320E-01
+ MJE= 4.930E-01 TF = 1.303E-11 XTF= 3.500E+01 VTF= 3.259E+00
+ ITF= 2.639E-01 PTF= 0.000E+00 CJC= 1.080E-13 VJC= 7.743E-01
+ MJC= 5.000E-01 XCJC=8.504E-02 TR = 1.500E-10 CJS= 1.290E-13
+ VJS= 9.058E-01 MJS= 4.931E-01 XTB= 1.732E+00 EG = 1.120E+00
+ XTI= 2.000E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.500E-01

.MODEL DX D
+ IS=1.0000E-15  

.ENDS    OPA695_model

*.subckt OPA695_model_S1 1 2 3 4  
*S_S1         3 4 1 2 _S1
*RS_S1         1 2 1G
*.MODEL         _S1 VSWITCH Roff=1e12 Ron=0.001 Voff=3.0 Von=4.5
*.MODEL         _S1 SwitchV R1=1e12 V1=3.0 R2=0.001 V2=4.5
*.ends OPA695_model_S1

.subckt OPA695_model_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends OPA695_model_F1
